US07122545B2
1.70 g 2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester were dissolved in 130 ml of a 7.7 molar solution of hydrogen chloride in methanol. After stirring at room temperature the solvent was distilled off and the residue was recrystallized from ethanol to yield 1.01 g (68%) 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride as yellow solid; M.p.: 267–269° C.; MS (ISP): m/e=386 (M+H+).

reactant | 2-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | 1.70 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)N=C(N2)C=2SC1=C(N2)C(=CC=C1N1CCOCC1)OC | C24H31N5O4S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-1,4,5,6,7,8-hexahydro-imidazo[4,5-d]azepine hydrochloride | 1.01 g, 68% | Cl.COC1=CC=C(C2=C1N=C(S2)C2=NC1=C(CCNCC1)N2)N2CCOCC2 | InChI=1S/C19H23N5O2S.ClH/c1-25-15-3-2-14(24-8-10-26-11-9-24)17-16(15)23-19(27-17)18-21-12-4-6-20-7-5-13(12)22-18;/h2-3,20H,4-11H2,1H3,(H,21,22);1H
